US06384080B1
To a mixture of 2-(4-carboxycyclohexylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide (80.0 mg), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (52.1 mg), 1-hydroxybenzotriazole (36.7 mg) in dimethylformamide (1 mL) was added 28% ammonia solution (10 drops). After stirring for 15 hours at ambient temperature, the mixture was partitioned between water and ethyl acetate. The separated organic layer was washed with an aqueous saturated sodium bicarbonate solution, water and brine. Then, the resultant was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with 10% methanol in chloroform. The obtained product was triturated with ciisopropyl ether to give 2-(4-carbamoylcyclohexylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide as yellow powders (60.0 mg).

reactant | 2-(4-carboxycyclohexylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 80.0 mg | C(=O)(O)C1CCC(CC1)NC1=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C=C(C=C1)[N+](=O)[O-] | C22H23N3O7
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 52.1 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 36.7 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | ammonia | 10 drops | N | H3N
product | 2-(4-carbamoylcyclohexylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 60.0 mg | C(N)(=O)C1CCC(CC1)NC1=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C=C(C=C1)[N+](=O)[O-] | C22H24N4O6
